US05332757
Using an analogous procedure to that described in Example 68, 4'-{5-[(4R)-2,2,4-trimethyl-1,3-dioxolan-4-yl]thiazol-2-ylthio}acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-{5-[(4R)-2,2,4-trimethyl-1,3-dioxolan-4-yl]thiazol-2-ylthio}acetophenone oxime in 82% yield as a gum.

reactant | 4'-{5-[(4R)-2,2,4-trimethyl-1,3-dioxolan-4-yl]thiazol-2-ylthio}acetophenone | CC1(OC[C@](O1)(C)C1=CN=C(S1)SC1=CC=C(C=C1)C(C)=O)C | C17H19NO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-{5-[(4R)-2,2,4-trimethyl-1,3-dioxolan-4-yl]thiazol-2-ylthio}acetophenone oxime | 82% yield | CC1(OC[C@](O1)(C)C1=CN=C(S1)SC1=CC=C(C=C1)/C(/C)=N/O)C | C17H20N2O3S2
